US06995162B2
2,2-Dimethyl-6-nitro-3,4-dihydro-2H-benzo[1,4]oxazine
2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one was added to BH3-THF complex (Aldrich) in THF with ice cooling. The mixture was heated to reflux for 2 h then carefully diluted with 12 mL of MeOH and heated to reflux for an additional 1 h. Concentrated HCl (12 mL) was added and heated to reflux for 1 h. The mixture was concentrated and the resulting solid was suspended in a dilute aqueous solution of NaOH (1 M) and extracted with EtOAc (100 mL×4). The organic layers were washed with H2O and dried over MgSO4. Evaporation of solvent gave a yellow solid.

reactant | 2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-])C | C10H10N2O4
reactant | HCl | 12 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | 12 mL | CO | CH4O
product | 2,2-Dimethyl-6-nitro-3,4-dihydro-2H-benzo[1,4]oxazine | CC1(OC2=C(NC1)C=C(C=C2)[N+](=O)[O-])C | C10H12N2O3
